US06288082B1
To 5 ml of trifluoroacetic acid was added 206 mg 7-benzyloxy-4-(2,3-dihydro-1H-indol-6-ylamino)-6-methoxy-quinoline-3-carbonitrile and the reaction was refluxed for 1.5 h. The TFA was removed under vacuum and the resulting film was dissolved in 7 ml of methanol followed by the addition of 50 ml of ice cold saturated sodium bicarbonate. The solution was allowed to stand at 10° C. for 1 h. The resulting solid was isolated, washed with excess water and dried under vacuum at 80° C. to yield 107 mg of 4-(2,3-dihydro-1H-indol-6-ylamino)-7-hydroxy-6-methoxy-quinoline-3-carbonitrile. This compound was taken directly on to the next step without purification.

reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-benzyloxy-4-(2,3-dihydro-1H-indol-6-ylamino)-6-methoxy-quinoline-3-carbonitrile | 206 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C2CCNC2=C1)OC | C26H22N4O2
product | 4-(2,3-dihydro-1H-indol-6-ylamino)-7-hydroxy-6-methoxy-quinoline-3-carbonitrile | 107 mg | N1CCC2=CC=C(C=C12)NC1=C(C=NC2=CC(=C(C=C12)OC)O)C#N | C19H16N4O2
